US04308277
12 g of cis-4,5-bis-(p-methoxyphenyl)-imidazolidine-2-thione are added to a solution of 0.88 g of sodium in 13 ml of methanol. The mixture is then diluted with 200 ml of dimethylformamide and left to stand overnight, 4 ml of ethyl iodide are added and the mixture is stirred for 5 hours at room temperature and poured into 300 ml of water. The crystals which have precipitated out are filtered off with suction and dissolved in methylene chloride. The solution is dried over sodium sulfate and evaporated and the residue is dissolved in acetone. The acetone solution is rendered weakly acid with methanolic hydrochloric acid (4.5μ) and the cis-2-ethylthio-4,5-bis-(p-methoxyphenyl)-imidazoline hydrochloride which has precipitated is filtered off. In order to liberate the base, this hydrochloride is treated with 2 N sodium hydroxide solution and the crude base is then rcrystallised from isopropanol/petroleum ether. cis-2-Ethylthio-4,5-bis-(p-methoxyphenyl)-imidazoline with a melting point of 92°-93° is obtained.

reactant | cis-4,5-bis-(p-methoxyphenyl)-imidazolidine-2-thione | 12 g | COC1=CC=C(C=C1)[C@@H]1NC(N[C@@H]1C1=CC=C(C=C1)OC)=S | C17H18N2O2S
reactant | sodium | 0.88 g | [Na] | Na
reactant | ethyl iodide | 4 ml | C(C)I | C2H5I
reactant | water | 300 ml | O | H2O
solvent | methanol | 13 ml | CO | CH4O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | cis-2-Ethylthio-4,5-bis-(p-methoxyphenyl)-imidazoline | C(C)SC=1N[C@@H]([C@@H](N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H22N2O2S
